Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
intermittent tachypnea
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
================================  
MICU ADMISSION NOTE  
Date of ICU Admission:  ___
Reason for ICU Admission:  ventilator dependent 
================================  

HISTORY OF PRESENT ILLNESS:  
===========================  
___ with h/o advanced ___, dementia, blindness, HTN, 
HLD,
COPD, hypothyroidism, who is now ___ dependent after
pseudomonas pneumonia presents to the ED with c/o respiratory
distress. She was discharged from rehab yesterday. ___ reports
that she had been doing well at ___. About ___ weeks ago she
had a pneumonia that was treated w/ antibiotics he is unsure 
what
kind. He notes increased upper airway sounds especially when she
is on a trach mask. He had requested a CXR at ___ but they did
not do one. He says she had no oral temperatures there. He says
she has been doing well and continues to communicate when there
they create a leak in her trach. Additionally she raises her
right hand with issues. Lately she has been raising her right
hand with concerns when he asks her. Lately it has been with 
pain
in her back. 

She came home to her son yesterday. He noted that she has had
intermittent episodes of having respiratory rates of ___ and
then it will go up to 30 for a few seconds and back down. He is
concerned this is new for her and he talked to a respiratory
therapist who he has on call who recommended she get evaluated. 

While at OSH she had episodes of tachypnea. CXR was c/f
persistent pneumonia with lactate 2.2. She was given a dose of
Vancomycin and Cefepime and transferred to ___.

Of note the patient had persistent fevers in the past despite
broad spectrum antibiotics for pneumonia. ID has been consulted
in the past and felt that she likely has colonization. They
believe she likely had fevers due to non-infectious source or
drug fever. She had a DVT in her RUE brachial, basilica and
cephalic veins. She also had LUE DVT of the axillary. The
decision last admission, despite many risks was to
anticoagulation with warfarin with a lovenox bridge. She was to
get 3 weeks of anticoagulation as she had a PICC in place. She
remained vent dependent previously. 

In the ED she had a fever to 101.4. She had a HR of 81, RR 14.
She was on her home ventilator settings of CMV, 400/10/5/28%. 

Her exam showed bilateral rhonchi, no sores appreciated or other
abnormalities.   

Lab work up showed a VBG 7.46/45. Lactate 1.3. WBC 8.0 
Hemoglobin
9.4. Remaining lab work was pending at time of transfer. Lactate
2.2 at OSH vanc and Cefepime given at OSH. Started on NS. 

ROS: Positives as per HPI; otherwise negative.  

 
Past Medical History:
Per OMR:
 ___ Disease  
 HTN  
 HLD  
 Esophageal dysmotility  
 Bilateral blindness  
 Reactive airway disease  
 COPD, bronchiectasis  
 Hypothyroidism  
 Recurrent Aspiration s/p ___ placement 
 
Social History:
___
Family History:
Sons with heart disease per chart review
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VS: afebrile, HR 82, BP    100% on vent
GEN: elderly woman, non-verbaly, trach and ___, no acute 
distress
HEENT: normocephalic, atraumatic, PERRLA
CV:  normal S1, S2, rRR no m/r/g
RESP: clear to auscultation, no wheezes or crackles noted
GI:  Soft, non-tender, ___ tube c/d/i
MSK:  warm, well perfused w/ contractors on left side
SKIN:  no breakdown noted
NEURO:  follows simple commands such as sticking out tongue
PSYCH:  unable to assess 

DISCHARGE PHYSICAL EXAM:
=========================
VS: HR 83 BP 111/62 O2SAT 100% ON 35% FiO2 trach mask
GENERAL: NAD, a bit delirious
CV RRR
Breathing well on trach mask 
No lower extremity edema
Skin dry, no erythema, no lesions 

 
Pertinent Results:
ADMISSION LABS:
===============

___ 08:09AM BLOOD WBC-8.0 RBC-3.24* Hgb-9.4* Hct-31.0* 
MCV-96 MCH-29.0 MCHC-30.3* RDW-14.7 RDWSD-51.7* Plt ___
___ 08:09AM BLOOD Neuts-66.5 ___ Monos-8.9 Eos-3.1 
Baso-0.5 Im ___ AbsNeut-5.30 AbsLymp-1.63 AbsMono-0.71 
AbsEos-0.25 AbsBaso-0.04
___ 01:32PM BLOOD ___ PTT-35.0 ___
___ 08:09AM BLOOD Glucose-100 UreaN-19 Creat-0.5 Na-136 
K-4.6 Cl-95* HCO3-28 AnGap-13
___ 08:09AM BLOOD ALT-13 AST-22 AlkPhos-97 TotBili-0.5
___ 08:09AM BLOOD Albumin-3.6 Calcium-9.5 Phos-4.0 Mg-1.9
___ 08:22AM BLOOD ___ pO2-59* pCO2-45 pH-7.46* 
calTCO2-33* Base XS-6 Comment-GREEN TOP 

DISCHARGE LABS:
===============
___ 04:05AM BLOOD WBC-6.1 RBC-3.05* Hgb-8.8* Hct-28.9* 
MCV-95 MCH-28.9 MCHC-30.4* RDW-14.6 RDWSD-50.8* Plt ___
___ 04:05AM BLOOD ___ PTT-34.4 ___
___ 04:05AM BLOOD Glucose-97 UreaN-17 Creat-0.5 Na-137 
K-4.4 Cl-97 HCO3-29 AnGap-11
___ 04:47AM BLOOD ___ ___ Tidal V-400 PEEP-5 
FiO2-35 pO2-49* pCO2-43 pH-7.47* calTCO2-32* Base XS-6 
As/Ctrl-ASSIST/CON Intubat-INTUBATED

IMAGING:
========
___ CXR
  
Comparison to ___.  No relevant change is noted.  The 
patient is 
strongly rotated.  The tracheostomy tube is in stable correct 
position.  
Healed right rib fractures with adjacent pleural thickening.  
The size of the cardiac silhouette remains slightly enlarged, 
there is a small hiatal hernia.  No pleural effusions.  No 
pulmonary edema.  No current evidence of pneumonia.

___ LENIS, upper extremity
 
IMPRESSION:  
  
No evidence of deep vein thrombosis in the bilateral upper 
extremity veins. 
  
___ CXR
IMPRESSION:  
  
Lungs continue to be low volume with multiple healed bilateral 
rib fractures.  Tracheostomy tube remains in place.  
Cardiomediastinal silhouette is stable.  Small bilateral 
effusions left greater than right are unchanged.  No 
pneumothorax. 

 
  

 
Brief Hospital Course:
PATIENT SUMMARY
===================
Ms ___ is a ___ year old woman with history of advanced 
___, bilateral blindness, reactive airway disease on 
chronic prednisone, HTN, HLD, COPD, hypothyroidism, and recent 
admission for MRSA and pseudomonas PNA which resulted in 
___, now with vent dependence (___), who now 
presents from her home w/ tachypnea (intermittent) found on last 
admission to have bl UE DVT (transitioned to warfarin). She has 
no leukocytosis on admission and no further fevers over one in 
ED. Staph coag negative at ___ and ___ culture, likely both 
contaminants.

ACUTE ISSUES 
=============== 
# Fever (noted x 1)
Most likely still colonized as noted before. Contaminated sputum 
here, CXR w/o PNA. No leukocytosis and maintains baseline 
tachypnea per prior providers. She finished her last course of 
antibiotics ___ weeks ago at ___. White count stable, no 
tachycardia. Afebrile other than 1 ED rectal temperature. One 
blood culuture at OSH and one blood culture at ___ with staph 
epi (one at OSH, one ___, but stable, thus thought to both be 
contaminants). 

#Chronic hypoxemic respiratory failure
#Trach dependent
Gas on admission reassuring. Continued home settings on trach, 
weaned as tolerated. She transitioned to trach mask, and 
intermittently used the ventilator if she appeared to be in 
respiratory distress. However this was weaned throughout her 
stay, and she was stably maintained on trach mask before 
discharge, with oxygen saturations 98-100% on 35% FiO2 and no 
respiratory distress. She did not need mechanical ventilation 
for 36 hours prior to discharge. 

# Bilateral UE Catheter Associated DVT:
Diagnosed previous admission ___ - ___. Repeat 
ultrasound here showed no evdience of DVT in upper extremity 
veins in setting of Warfarin since discharge in ___. Plan to 
continue anticoag until end of ___ with warfarin goal INR ___, 
with consideration of transitioning to enoxaparin ___omplete for lifelong anticoagulation, as she has a 
propensity to develop venothromboemboli. 

# Normocytic anemia
The patient has a recent baseline Hgb of 7.5-8.5m/dL. Iron 
studies from her last admission suggest anemia of chronic 
inflammation. She requires intermittent transfusions. 

# Severe protein-calorie malnutrition
She was continued on tube feeds per recommendation of the 
Nutrition service. 

CHRONIC ISSUES 
=============== 
# Esophageal dysmotility: s/p ___: The patient was continued on 
the Nutrition service's final tube feed recs from her last 
admission

# ___: Continued home carbidopa/levodopa regimen 
(adjusted while at ___)

# HLD: Continued home statin

# Chronic pain: We transitioned standing acetaminophen to PRN as 
she did not appear in pain, and nodded no when asked if she was 
in any pain. Home NSAIDs were held in the setting of anemia. She 
should continue on as-needed pain control with acetaminophen or 
very low dose oxycodone. 

# Reactive airway disease, copd: Taper prednisone as below in 
transitional issues

TRANSITIONAL ISSUES:
====================
[] if patient to go home in future, continue trach/vent teaching 
w/ son
[] continue on going discussions w/ family regarding prognosis 
and goals of care
[] Please discuss with family long-term anticoagulation given 
propensity for venous thromboembolism. 
[] Patient does well on trach mask, only needs ventilator if o2 
sat decreases or she appears in respiratory distress. 
[] prednisone taper as follows: 5 mg PO daily until ___, 2.5 mg 
starting ___ through ___, then stop prednisone. 
Re-evaluate need if symptoms worsen off of prednisone. 

Code: Full, confirmed w/ Son (___), Proxy ___

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg NG Q6H 
2. Artificial Tears 1 DROP BOTH EYES BID 
3. Carbidopa-Levodopa (___) 2 TAB NG Q0700 
4. Carbidopa-Levodopa (___) 1.5 TAB PO Q 1000 
5. Carbidopa-Levodopa (___) 1.5 TAB PO Q1300 
6. Carbidopa-Levodopa (___) 1.5 TAB PO Q1600 
7. Ipratropium Bromide Neb 1 NEB IH Q6H 
8. Levalbuterol Neb 0.63 mg NEB Q6H 
9. Lidocaine 5% Patch 1 PTCH TD QPM 
10. Milk of Magnesia 30 mL PO DAILY 
11. Multivitamins W/minerals 1 TAB NG DAILY 
12. OxyCODONE (Immediate Release) 1.25 mg PO Q6H:PRN Pain - 
Moderate 
13. Polyethylene Glycol 17 g PO DAILY 
14. PredniSONE 10 mg NG DAILY 
Start: After last tapered dose completes 
This is the maintenance dose to follow the last tapered dose
15. Levothyroxine Sodium 25 mcg PO DAILY 
16. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
17. Clotrimazole Cream 1 Appl TP BID 
18. formoterol fumarate 20 mcg/2 mL inhalation BID 
19. melatonin 3 mg oral QHS 
20. omeprazole magnesium 20 Mg oral BID 
21. Pravastatin 80 mg PO QPM 
22. Saccharomyces boulardii 250 mg oral BID 
23. ___  MD to order daily dose PO DAILY16 
24. Enoxaparin Sodium 50 mg SC Q12H 

 
Discharge Medications:
1.  formoterol fumarate 20 mcg/2 mL inhalation BID  
2.  formoterol fumarate 20 mcg/2 mL inhalation BID  
3.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID  
4.  Acetaminophen 500 mg NG Q6H:PRN Pain - Mild/Fever  
5.  Artificial Tears ___ DROP BOTH EYES BID  
6.  Carbidopa-Levodopa (___) 1.5 TAB PO TID 
___, 1300, 1600  
7.  Pravastatin 20 mg PO QPM  
8.  PredniSONE 5 mg PO DAILY Duration: 7 Days  
9.  PredniSONE 2.5 mg PO DAILY Duration: 7 Days  
10.  Carbidopa-Levodopa (___) 2 TAB NG Q0700  
11.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
12.  Clotrimazole Cream 1 Appl TP BID  
13.  Ipratropium Bromide Neb 1 NEB IH Q6H  
14.  Levalbuterol Neb 0.63 mg NEB Q6H  
15.  Levothyroxine Sodium 25 mcg PO DAILY  
16.  Lidocaine 5% Patch 1 PTCH TD QPM  
17.  melatonin 3 mg oral QHS  
18.  Milk of Magnesia 30 mL PO DAILY  
19.  Multivitamins W/minerals 1 TAB NG DAILY  
20.  OxyCODONE (Immediate Release) 1.25 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 0.25 tablet(s) by mouth Q6H PRN Disp #*10 
Tablet Refills:*0 
21.  Polyethylene Glycol 17 g PO DAILY  
22.  Saccharomyces boulardii 250 mg oral BID  
23.  ___  MD to order daily dose PO DAILY16  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
FINAL DIAGNOSIS
=================
Acute on chronic respiratory failure, tracheostomy dependent

SECONDARY DIAGNOSES
=====================
___ disease
Bilateral catheter-associated deep vein thrombosis
Anemia of chronic disease
Severe protein-calorie malnutrition

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
- You came to the hospital because there was concern at home 
with your breathing. 

What happened while you were in the hospital?
- You had a fever in the emergency department, but then no other 
fevers or signs of infection
- The respiratory therapist sometimes put you back on the 
ventilator through your tracheostomy at night if you were having 
trouble breathing. Most of the time you did very well on the 
tracheostomy mask. 
- You were continued on medications to prevent clots from 
forming in your veins. 

What should you do once you leave the hospital?
- Make sure to take your medications as prescribed. 

We wish you all the best!
- Your ___ Care Team

 
Followup Instructions:
___